US08217066B2
Step 3: (5)-1-[5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-2-((R)-1-phenyl-ethoxy)-ethanol:
The (S)-Corey-Bakshi-Shibata catalyst (0.012 g, 0.04 mmol) was dissolved in THF (2 mL) and cooled to 0° C. Borane dimethyl sulfide complex (2.0 M in THF, 0.387 mL, 0.77 mmol) was slowly added, followed by 1-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-2-((R)-1-phenyl-ethoxy)-ethanone (0.172 g, 0.43 mmol) in THF (3.3 mL) over 15 minutes. After stirring for 55 minutes the reaction was submitted to standard aqueous workup to afford the title compound.

reactant | Borane dimethyl sulfide | 0.77 mmol, 2.0 M, 0.387 mL | CSC.B
reactant | 1-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-2-((R)-1-phenyl-ethoxy)-ethanone | 0.43 mmol, 0.172 g | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C(CO[C@H](C)C1=CC=CC=C1)=O | C20H18BrNO3
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 3.3 mL | C1CCOC1 | C4H8O
product | (5)-1-[5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-2-((R)-1-phenyl-ethoxy)-ethanol | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)[C@@H](CO[C@H](C)C1=CC=CC=C1)O | C20H20BrNO3
